US09145429B2
To a solution of 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinamide (180 mg, 0.6 mmol) in acetonitrile (20 mL) was added POCl3 (276 mg, 1.8 mmol) and pyridine (285 mg, 3.6 mmol). After stirred at r.t for 2 hrs, the mixture was poured into aq. NaHCO3, extracted with EtOAc. The separated organics was dried and concentrated in vacuo to afford crude 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinonitrile (150 mg).

reactant | 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinamide | 0.6 mmol, 180 mg | ClC1=NC(=C(C(=O)N)C=C1C1CC1)OCCOC(C)C | C14H19ClN2O3
reactant | POCl3 | 1.8 mmol, 276 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 3.6 mmol, 285 mg | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinonitrile | 150 mg | ClC1=NC(=C(C#N)C=C1C1CC1)OCCOC(C)C | C14H17ClN2O2
